US05234946
1.56 g of 3-ethynyltoluene was dissolved in 20 ml of ethyl ether, and with stirring at -70° C., 8.5 ml of 1.5M n-butyllithium-hexane solution and 1.2 ml of ethyl formate were added. The mixture was stirred at the same temperature for 20 minutes. The reaction mixture was poured into ice water, and the organic layer was separated. The solvent was evaporated to give 900 mg (yield 47%) of 3-(3-methylphenyl)-2-propynaldehyde as a colorless oil.

reactant | 3-ethynyltoluene | 1.56 g | C(#C)C=1C=C(C=CC1)C | C9H8
reactant | ethyl formate | 1.2 ml | C(=O)OCC | C3H6O2
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | 3-(3-methylphenyl)-2-propynaldehyde | 900 mg, yield 47% | CC=1C=C(C=CC1)C#CC=O | C10H8O
